* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1129-5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 10)
Rload OUT 0 100
C1 OUT 0 1µ
X§U1 OUT OUT 0 N001 IN LT1129-5
R1 IN N001 10K
.tran 1
.lib LT1129.lib
.backanno
.end
